US07888386B2
3-(Phenyl-o-tolyloxymethyl)pyrrolidine
3-(Phenyl-o-tolyloxymethyl)pyrrolidine-1-carboxylic acid t-butyl ester (149 mg, 405 μmol) was dissolved in a solution of HCl in EtOH (1.25M, 3 mL) and stirred at room temperature for 3 hours, and then evaporated to dryness. The residue was purified by flash chromatography on silica gel (CH2Cl2/MeOH:9/1) to afford the RS/SR mixture of enantiomers of the hydrochloride salt of the title compound as a yellow foam (112 mg, 98% purity).

reactant | 3-(Phenyl-o-tolyloxymethyl)pyrrolidine-1-carboxylic acid t-butyl ester | 405 μmol, 149 mg | C(C)(C)(C)OC(=O)N1CC(CC1)C(OC1=C(C=CC=C1)C)C1=CC=CC=C1 | C23H29NO3
solvent | HCl | Cl | ClH
solvent | EtOH | 1.25M, 3 mL | CCO | C2H6O
product | 3-(Phenyl-o-tolyloxymethyl)pyrrolidine | 112 mg, 98% | C1(=CC=CC=C1)C(C1CNCC1)OC1=C(C=CC=C1)C | C18H21NO
